US07863271B2
To a solution of lithium iodide (185 mg, 1.38 mmol) in refluxing anhydrous pyridine (10 mL) was added methyl 2-((2S,6S)-2,6-dimethylpiperazin-1-yl)benzoxazole-4-carboxylate (100 mg, 0.346 mmol) and the reaction mixture was refluxed for 24 hours. The mixture was cooled to room temperature, concentrated to dryness and dried in vacuo to provide lithium 2-((2S,6S)-2,6-dimethylpiperazin-1-yl)benzoxazole-4-carboxylate as a solid which was used without further purification: MS consistent

reactant | lithium iodide | 1.38 mmol, 185 mg | [I-].[Li+]
reactant | methyl 2-((2S,6S)-2,6-dimethylpiperazin-1-yl)benzoxazole-4-carboxylate | 0.346 mmol, 100 mg | C[C@@H]1N([C@H](CNC1)C)C=1OC=2C(N1)=C(C=CC2)C(=O)OC | C15H19N3O3
solvent | pyridine | 10 mL | N1=CC=CC=C1 | C5H5N
product | lithium 2-((2S,6S)-2,6-dimethylpiperazin-1-yl)benzoxazole-4-carboxylate | C[C@@H]1N([C@H](CNC1)C)C=1OC=2C(N1)=C(C=CC2)C(=O)[O-].[Li+] | InChI=1S/C14H17N3O3.Li/c1-8-6-15-7-9(2)17(8)14-16-12-10(13(18)19)4-3-5-11(12)20-14;/h3-5,8-9,15H,6-7H2,1-2H3,(H,18,19);/q;+1/p-1/t8-,9-;/m0./s1
